### PR TITLE
[Merged by Bors] - feat: two lemmas about subtraction of norms

### PR DESCRIPTION
**Pull request by RemyDegenne**
`‖u * v‖ - ‖u / v‖ ≤ 2 * ‖v‖`, `‖u * v‖ - ‖u / v‖ ≤ 2 * min ‖u‖ ‖v‖` and additive versions.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/Basic.lean [hunk 1]
```diff
@@ -620,6 +620,24 @@ theorem norm_lt_of_mem_ball' (h : b ∈ ball a r) : ‖b‖ < ‖a‖ + r :=
...
 
+@[to_additive norm_add_sub_norm_sub_le_two_mul]
+lemma norm_mul_sub_norm_div_le_two_mul {E : Type*} [SeminormedGroup E] (u v : E) :
+    ‖u * v‖ - ‖u / v‖ ≤ 2 * ‖v‖ :=
+  calc ‖u * v‖ - ‖u / v‖
+  _ = ‖u / v * v * v‖ - ‖u / v‖ := by congr; rw [div_mul_cancel]
+  _ ≤ ‖v * v‖ + ‖u / v‖ - ‖u / v‖ := by rw [add_comm, mul_assoc]; gcongr; exact norm_mul_le' _ _
+  _ = ‖v * v‖ := by abel
+  _ ≤ ‖v‖ + ‖v‖ := norm_mul_le' _ _
+  _ = 2 * ‖v‖ := by rw [two_mul]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Normed/Group/Basic.lean]: If you want, but not required. Although this highlights that the arguments to `norm_mul₃_le'` should be explicit. :confused: 
```suggestion
    ‖u * v‖ - ‖u / v‖ ≤ 2 * ‖v‖ := by
  simpa [- tsub_le_iff_right, tsub_le_iff_left, two_mul, add_assoc]
    using norm_mul₃_le' (a := (u / v)) (b := v) (c := v)
```

**Review by j-loreaux — COMMENTED** [review]
bors d+
